US06384080B1
To a solution of 1,3-cyclopentanediol (500 mg) in pyridine (10 mL) was added benzoyl chloride (688 mg), and the mixture was stirred for 18 hours at ambient temperature. After evaporation of the solvent, the residue was partitioned between ethyl acetate and water. The separated organic layer was washed with 1N-hydrochloric acid, water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (3:1 to 1:1) to give 3-hydroxycyclopentyl benzoate as a colorless oil (630 mg).

reactant | 1,3-cyclopentanediol | 500 mg | C1(CC(CC1)O)O | C5H10O2
reactant | benzoyl chloride | 688 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3-hydroxycyclopentyl benzoate | 630 mg | C(C1=CC=CC=C1)(=O)OC1CC(CC1)O | C12H14O3
